US07582760B2
To a solution of 0.112 g of 4-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester in 15 mL ethyl acetate with 5 mL ethanol is added 3 mL of 2M ethanolic hydrogen chloride. The resulting solution is refluxed for one hour, and on cooling, a solid precipates. The solid is filtered and dried over night under vacuum to give 82 mg of 1-benzyl-4-piperazin-1-yl-1,3-dihydro-benzoimidazol-2-one hydrochloride. MS: 309 (M+H)+.

reactant | 4-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.112 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2N(C(NC21)=O)CC2=CC=CC=C2 | C23H28N4O3
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | hydrogen chloride | 2M, 3 mL | Cl | ClH
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4-piperazin-1-yl-1,3-dihydro-benzoimidazol-2-one hydrochloride | 82 mg | Cl.C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2N2CCNCC2)=O | InChI=1S/C18H20N4O.ClH/c23-18-20-17-15(21-11-9-19-10-12-21)7-4-8-16(17)22(18)13-14-5-2-1-3-6-14;/h1-8,19H,9-13H2,(H,20,23);1H
